US05576324
2-[2-(Dimethylamino)ethylthiomethyl]-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one:
To a suspension of 2-bromomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one (1. 765 g) in dimethylformamide (60 ml), hydrochloric acid salt of 2 (dimethylamino)ethylmercaptan (4.25 g) and caustic soda (2.40 g) in water (20 ml) were added and stirred at room temperature for 1 hour. The solvent was distilled off under reduced pressure. The residue was combined with water, and extracted with chloroform. The extract was washed with NaCl solution twice and dried and condensed. The residue was crystallized from chloroform--n-hexane to obtain 1.741 g of the title compound as white powder (mp.: 163°-165° C.).

reactant | 2-bromomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 765 g | BrCC1CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1 | C13H12BrNO2
reactant | (dimethylamino)ethylmercaptan | 4.25 g | CN(C)CCS | C4H11NS
reactant | caustic soda | 2.40 g | [OH-].[Na+]
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | hydrochloric acid | Cl | ClH
solvent | water | 20 ml | O | H2O
product | 2-[2-(Dimethylamino)ethylthiomethyl]-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 1.741 g, Yield: 91.1% | CN(CCSCC1CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1)C | C17H22N2O2S
